US04343648
95 parts of isopropylaminosulfonyl chloride were stirred into a mixture of 96 parts of N-carbomethoxy-O-isopropyl-isourea and 73 parts of triethylamine in 700 parts of tetrahydrofuran at 10°-15° C., in the course of 25 minutes. After having been stirred for one hour at 25° C., the reaction mixture was extracted once with water and once with 0.5 N hydrochloric acid, dried and evaporated down under reduced pressure. 130 parts of N-carbomethoxy-N'-isopropylsulfamyl-O-isopropylisourea, of melting point 62°-64° C., were obtained. 33.7 parts of this product were cyclized with 17.6 parts of 50 percent strength by weight sodium hydroxide solution in 30 parts of water for 5 minutes at 55°-60° C. After extraction with ether, acidification, filtering, washing the residue with water and drying, 22 parts of 6-isopropyl-3-isopropoxy-6H-1,2,4,6-thiatriazin-5-one-1,1-dioxide, of melting point 164°-167° C., were obtained.

reactant | isopropylaminosulfonyl chloride | C(C)(C)NS(=O)(=O)Cl | C3H8ClNO2S
reactant | N-carbomethoxy-O-isopropyl-isourea | C(=O)(OC)NC(OC(C)C)=N | C6H12N2O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-carbomethoxy-N'-isopropylsulfamyl-O-isopropylisourea | C(=O)(OC)NC(OC(C)C)=NS(NC(C)C)(=O)=O | C9H19N3O5S
